US07112582B2
Step 5: (5R,6RS)-6-[(RS)-Acetoxy(7-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitrobenzyl ester (diastereo mixture):
7-Methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carbaldehyde (1.19 g) was added to the dry acetonitrile (97 mL) solution of anhydrous MgBr2 (4.05 g) under a nitrogen atmosphere at room temperature. The dry THF solution (97 mL) of (5R, 6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (3.32 g) was added to the mixture, cooled to −20° C., and Et3N (3.0 mL) was added in one portion. The reaction vessel was covered with foil to exclude light. The reaction mixture was stirred for 4.5 h at −20° C. and treated with acetic anhydride (1.36 mL) in one portion. The reaction mixture was warmed to 0° C. and stirred for 17 h at 0° C. The mixture was diluted with ethyl acetate and washed with 5% citric acid aqueous solution, saturated sodium hydrogen carbonate, and brine. The organic layer was dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography, then the column was eluted with CHCl3-acetone (9/1˜2/1). The titled compound was obtained as two diastereo mixture. Red oil, Yield: 1.13 g.

reactant | 7-Methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carbaldehyde | 1.19 g | CN1CC=2N(CC1)C=C(N2)C=O | C8H11N3O
reactant | MgBr2 | 4.05 g | [Mg+2].[Br-].[Br-]
reactant | (5R, 6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 3.32 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C([C@@H]([C@H]3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | acetic anhydride | 1.36 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Et3N | 3.0 mL | CCN(CC)CC | C6H15N
solvent | THF | 97 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 97 mL | C(C)#N | C2H3N
product | (5R,6RS)-6-[(RS)-Acetoxy(7-methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(CCN(C3)C)C2)OC(C)=O)=O)C=C1 | C23H22BrN5O7S
